US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)piperazine (300 mg), 4-thiomorpholino-2-butynyl chloride hydrochloride (170 mg) and powdered potassium carbonate (210 mg) in dry acetonitrile (3 ml) was refluxed for 7.5 hours in the presence of potassium iodide (20 mg). The reaction mixture was cooled and then filtered. The filtrate was concentrated under reduced pressure and the resulting residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and methanol (50:1). The obtained product was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate solution (0.6 ml) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-(4-thiomorpholino-2-butynyl)piperazine dihydrochloride (300 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)piperazine | 300 mg | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | C24H20F6N2O
reactant | 4-thiomorpholino-2-butynyl chloride hydrochloride | 170 mg | Cl.S1CCN(CC1)CC#CCCl
reactant | potassium carbonate | 210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 20 mg | [I-].[K+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-(4-thiomorpholino-2-butynyl)piperazine dihydrochloride | 300 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2CCSCC2)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H31F6N3OS.2ClH/c33-31(34,35)27-19-26(20-28(21-27)32(36,37)38)30(42)41-12-11-40(10-4-3-9-39-13-15-43-16-14-39)22-29(41)18-23-7-8-24-5-1-2-6-25(24)17-23;;/h1-2,5-8,17,19-21,29H,9-16,18,22H2;2*1H/t29-;;/m1../s1
